US06239074B1
4-Chloro-3-(α-chloroethoxycarbonylethenyl)-phenyl isocyanate
108.8 g of trichloromethyl chloroformate were added to a suspension of 130 g of 4-chloro-3-(α-chloroethoxycarbonylethenyl)-aniline in 1200 ml of toluene. The stirred mixture was refluxed for 16 hours. After the resulting precipitate had been separated off, the solvent was removed under reduced pressure, the residue was stirred with petroleum ether and the precipitate was removed and dried.

reactant | trichloromethyl chloroformate | 108.8 g | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | 4-chloro-3-(α-chloroethoxycarbonylethenyl)-aniline | 130 g | ClC1=C(C=C(N)C=C1)C=CC(=O)OC(C)Cl | C11H11Cl2NO2
solvent | toluene | 1200 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Chloro-3-(α-chloroethoxycarbonylethenyl)-phenyl isocyanate | ClC1=C(C=C(C=C1)N=C=O)C=CC(=O)OC(C)Cl | C12H9Cl2NO3
